Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Cefaclor / Aspirin
 
Attending: ___.
 
Chief Complaint:
Feeling hot/cold, paresthesias
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old man presented to ___ for his fourth ___ visit for a 
strange constellation of symptoms including a strange feeling 
like water in his stomach, abdominal pain, a feeling of fecal 
urgency, and warm tingling up into his chest and down his leg.  
He reported a total duration of about three weeks for these 
symptoms.  His most dramatic symptom had been a strange 
sensation of hot and cold.  He reported he would have a very 
cold feeling in his abdomen associated with some pain that was 
most intense in the right upper quadrant.  This would be 
followed by a warm, dry feeling in his chest.  He reported after 
these symptoms he would have a feeling of fecal urgency and 
almost invariably have a bowel movement.   Additionally, 
associated with these episodes he endorsed shortness of breath, 
mild chest pain, diaphoresis, and a presyncopal feeling.  He 
acknowledged these symptoms would lead to a great deal of 
anxiety, which would make him feel worse, but was very insistent 
the anxiety developed after and in response to the symptoms.  He 
denied actually syncope.  He did report various areas of 
paresthesia as part of these spells in a band down his arm or 
leg.  These symptoms led to at least three previous ___ 
evaluations and he had a CT Abdomen (reportedly benign), 
multiple ECG's and multiple sets of labs with attempts to 
empirically treat for PNA, asthma flare, and influenza.  There 
had been some discussion of sending urine metanephrines and both 
his PCP and an ___ physician at ___ recommended this but it was 
deferred as he was completing a steroid course.  He reported 
none of these symptoms had improved with any of the measures 
recommended at other hospitals and he continued to be very 
worried something dangerous was occurring.  Over the last three 
days preceding his presentation these symptoms had been more 
marked and he had a chronic sensation of discomfort in his 
abdomen.  When he awoke on the morning of presentation he had a 
right frontal headache as well as his other symptoms so he 
called ___ and the physician on call, Dr ___ him to 
the ___ for further work up.   

In the ___ VS 99. 100 132/87 18 100%.  Physical exam was notable 
for wheezing so he received albuterol inhaler.  He also received 
buprenorphine-naloxone ___.  He had a benign head CT and was 
admitted to the floor.  

REVIEW OF SYSTEMS: + per HPI.  Also positive for cough and URI 
symptoms.  Negative for constipation, ememesis, melena, 
hematochezia, palpitations, dysuria, hematuria, confusion, 
syncope.
 
Past Medical History:
-Cerbral palsy
-Asthma
-Hep C positive
-Anxiety
-History of substance abuse on naloxone
-S/P left shoulder surgeries * 2
-He reports an episode of acute kidney injury during his period 
of substance abuse, he reports he not require dialysis but this 
was discussed
 
Social History:
___
Family History:
Didn't know his father but heard something about an adrenal 
tumor in him.  Mother had brain aneurysm and has had cardiac 
stents in ___ (mother is currently actively using drugs).  
 
Physical Exam:
On Admission:
VS: T 98.1, P 76, BP 128/95, RR 18, O2 99% on RA
Gen: Anxious young man in NAD, diaphoretic
HEENT: Normocephalic, anicteric, MMM, OP clear without lesions
Neck: No masses or thyroid nodules appreciated
CV: RRR, no M/R/G; there is no jugular venous distension 
appreciated
Pulm: Resps unlabored, bilateral expiratory wheezes, good air 
movement.  
Abd: Mild abdominal tenderness diffusely but no guarding or 
rebound, no organomegaly or masses appreciated
Extrem: Warm and well perfused, no C/C/E
Neuro: A and O*3, CNII-XII exam showed normal movement, 
complained decreased sensation V2-V3 on R side, strength ___ in 
all extremities
Psych: Very anxious affect

On Discharge:
Neuro: Right V2-V3 sensation normal, but new left face numb 
sensation.
Anal: Skin abrasion around anus, but no vesicles, condyloma, 
erythema, or fluctuance.
 
Pertinent Results:
===================
LABORATORY RESULTS
===================
On Presentation:
Na 140, K 4.6, Cl 101, HCO3 28, BUN 16, Cr 0.7, Glu 121
WBC 10, Hb 15.5, Hct 43.3, MCV 83, Plt 290
--N 65.2, L 30.8, M 2.6, E 0.2, B 1.1
___ 15.4, PTT 30.1, INR 1.3
Ca ___, Mg 2.1, P 3.6
TropT< 0.01
ALT 19, AST 19, AP 41, LDH 184, TBili 0.5
TSH-1.2 T4-10.0 T3-139
Tox: ASA-NEG Acetmnp-NEG Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

UA: Mod Bact, 30 protein

On Discharge:
WBC-7.2 RBC-4.92 Hgb-14.5 Hct-40.2 MCV-82 RDW-13.2 Plt ___
Glucose-107* UreaN-19 Creat-0.7 Na-138 K-4.3 Cl-101 HCO3-27 

=============
MICROBIOLOGY
=============
Urine Culture ___: No Growth

Monospot ___: Negative

==============
OTHER STUDIES
==============
CT Head W/O Contrast ___:
IMPRESSION: No acute intracranial process. Sphenoid sinus 
disease.

Chest Radiograph ___:
IMPRESSION: No acute intrathoracic process.

ECG: Sinus bradycardia at 83.  Nl axis and intervals.  J point 
elevation anteriorly.  No acute ST or TW abnormalities.  
 
Brief Hospital Course:
This is a ___ year old male with history of anxiety, substance 
abuse, and asthma presenting with three weeks of strange 
symptoms and multiple ___ evals.

1) Chills/ Warm Sensation/ Paresthesias/ Paresthesias/ 
Presyncope: The patient presented for at least his fourth visit 
for a complicated set of somatic symptoms including feeling hot 
or cold, migrating paresthesias, fecal urgency, and presyncope.  
 His febrile symptoms are, of course, concerning for infection 
and his neurological symptoms and fever raise concern for 
neurogenic or cardiogenic syncope vs seizure.  The patient was 
monitored >24 hours and had multiple episodes of this symptom 
complex.  Vital signs were checked numerous times and he was 
monitored on telemetry.  There were no episodes of concerning 
arrhythmia, hemodynamic instability, fevers, chills, or other 
appreciable physical exam finding with the exception of the 
patient being somewhat diaphoretic and having some mild, diffuse 
tenderness to palpation on his abdomen.  A wide range of labs 
were checked and no significant abnormalities were detected.  
Ultimate diagnosis remains unclear though the team has 
considerable suspicion of anxiety or atypical panic attacks 
given the patient's marked anxiety and the lack of physical 
findings.  Other possible etiologies would be vasovagal (near) 
syncope perhaps initiated by a viral syndrome that caused loose 
stools and nausea (though neither of these GI symptoms were 
reported during this hospitalization).  His CT head was benign 
and pretest probability of stroke or severe intracranial process 
with NO hard neurological deficits on exam in this young, 
healthy man would be very low.   Other much less likely 
diagnostic possibilities would be pheochromocytoma or carcinoid, 
both of which can cause flushing spells (carcinoid would better 
explain fecal urgency) though one would expect at least some 
vital sign abnormalities during the episodes.  Ultimately, the 
very benign nature of the tests and data from monitoring were 
discussed with the patient and Dr ___ at ___ 
___.  Given the difficulties with initiating 24 hour 
urine monitoring and sending send-out tests in an ultimately 
VERY stable looking man tests of 5-HIAA and urine metanephrines 
were deferred.  We explained to the patient that though we were 
unable to give a specific diagnosis findings were suggestive of 
something not immediately dangerous, which he found reassuring.  
The patient was discharged to follow up with his PCP for further 
___ of these symptoms.  

2) Wheezing/ SOB: Patient has history of asthma and was wheezing 
on presentation.  He was given albuterol inhaler in house.  

3) History of substance abuse: He was continued on his home 
buprenorphine-naloxone.

He tolerated a full diet.  He received subcutaneous heparin for 
DVT prophylaxis.  He was full code.  
 
Medications on Admission:
Buprenorphine-Naloxone ___ mg PO QAM, ___ mg PO QPM 
 
Discharge Medications:
1. buprenorphine-naloxone ___ mg Tablet, Sublingual Sig: One (1) 
Tablet Sublingual QAM (once a day (in the morning)).  
2. Suboxone ___ mg Tablet, Sublingual Sig: Two (2) tabs 
Sublingual at bedtime.  
3. acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed for fever, pain.  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnoses:
--Somatic symptoms NOS, suspected viral syndrome vs vasovagal
--Asthma

Secondary Diagnosis:
-History of opiate addiction on suboxone maintenance
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted due to concerns about the symptoms you have 
been having including sensation of hot and cold, urgency to go 
to the bathroom, abdominal discomfort, shortness of breath, and 
feeling as if you might pass out.  You were admitted and  
monitored overnight.  You have had no vital sign abnormalities, 
dangerous cardiac rhythms, and your labs were unremarkable.  A 
CT scan showed no major intracranial process.  It is unclear 
what is causing your symptoms.  Most likely you had a viral 
syndrome that exacerbated your asthma and perhaps is causing 
something called vasovagal episodes, during which you may feel 
lightheaded.  There are a few other rare illnesses that could 
cause some of these symptoms but these require 24 hour urine 
corrections and take some time to return.  These were deferred 
as an inpatient but will be pursued as an outpatient by your 
PCP.  

Your medications have not been changed.  Please continue to take 
your Suboxone as prescribed.  
 
Followup Instructions:
___